US05444061
D-Glutamic acid (5.88 g), tert-butyl acetate (100 ml) and 70% aqueous perchloric acid (6.3 g) were stirred at laboratory temperature for 4 days. The mixture was then cooled in an ice-water bath and extracted with 0.5 N hydrochloric acid (3×100 ml). The combined aqueous extracts were immediately neutralised with solid sodium bicarbonate. The aqueous solution was extracted with diethyl ether (3×100 ml), the ether extracts pooled, dried over anhydrous sodium sulphate and the ether evaporated in vacuo to give di-tert-butyl-D-glutamate (0.855 g).

reactant | D-Glutamic acid | 5.88 g | N[C@H](CCC(=O)O)C(=O)O | C5H9NO4
reactant | perchloric acid | 6.3 g | Cl(=O)(=O)(=O)O | ClHO4
reactant | tert-butyl acetate | 100 ml | C(C)(=O)OC(C)(C)C | C6H12O2
product | di-tert-butyl-D-glutamate | 0.855 g | C(C)(C)(C)OC([C@H](N)CCC(=O)OC(C)(C)C)=O | C13H25NO4
